US07947689B2
6-Bromo-2-[(2,3,4-trimethyl-6,7-dihydrothieno[3,2-c]pyridin-5(4H)-yl)carbonyl]-pyrazolo[1,5-a]pyrimidine
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 2,3,4-Trimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine to provide the title compound.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2,3,4-Trimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | CC1=C(C=2C(NCCC2S1)C)C | C10H15NS
product | 6-Bromo-2-[(2,3,4-trimethyl-6,7-dihydrothieno[3,2-c]pyridin-5(4H)-yl)carbonyl]-pyrazolo[1,5-a]pyrimidine | Yield: 64% | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)SC(=C1C)C)C | C17H17BrN4OS
